US20010056123A1
Step 2: Synthesis of 4-benzyloxy-3-[2-(t-butoxycarbonylamino)ethoxy]benzonitrile:
8.0 g (35.7 mmol) of t-butyl (2-bromoethyl)carbamate was dissolved in 20 ml of DMF. 4.0 g (17.7 mmol) of 4-benzyloxy-3-hydroxybenzonitrile and 7.4 g (41.3 mmol) of potassium carbonate were added to the obtained solution, and they were stirred at 100° C. for 3 hours. After the treatment with ethyl acetate as the extraction solvent in an ordinary manner, the solvent was evaporated, and the obtained residue was purified by the silica gel column chromatography to obtain the title compound.

reactant | t-butyl (2-bromoethyl)carbamate | 35.7 mmol, 8.0 g | BrCCNC(OC(C)(C)C)=O | C7H14BrNO2
reactant | 4-benzyloxy-3-hydroxybenzonitrile | 17.7 mmol, 4.0 g | C(C1=CC=CC=C1)OC1=C(C=C(C#N)C=C1)O | C14H11NO2
reactant | potassium carbonate | 41.3 mmol, 7.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 4-benzyloxy-3-[2-(t-butoxycarbonylamino)ethoxy]benzonitrile | C(C1=CC=CC=C1)OC1=C(C=C(C#N)C=C1)OCCNC(=O)OC(C)(C)C | C21H24N2O4
